US04988723
N-Bromosuccinimide (6.408 g) was added to a solution of 2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (5.55 g) and N-benzyloxycarbonyl-L-alanine (6.69 g) in chloroform (60 ml). After being stirred under reflux for 16 hours, the mixture was poured into saturated aqueous sodium bicarbonate and diluted with chloroform. The organic layer was separated, washed successively with 5% aqueous sodium thiosulfate, water, and brine, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was dissolved in diisopropyl ether and allowed to stand at ambient temperature. The resulting precipitates were collected by filtration, washed with diisopropyl ether, and dried to give (3R,4S)-4-{(2S)-2-benzyloxycarbonylaminopropionyloxy}-3-bromo-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (4.26 g).

reactant | N-Bromosuccinimide | 6.408 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 5.55 g | CC1(OC2=C(C=C1)C=C(C=C2)C#N)C | C12H11NO
reactant | N-benzyloxycarbonyl-L-alanine | 6.69 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | (3R,4S)-4-{(2S)-2-benzyloxycarbonylaminopropionyloxy}-3-bromo-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 4.26 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O[C@@H]1[C@H](C(OC2=C1C=C(C=C2)C#N)(C)C)Br)C | C23H23BrN2O5
